US06096921
Preparation of 4-(4-nitro-3-hydroxy-2,5,6-trifluoro-phenoxy)-2-(4-benzyloxycarbonylphenoxy)-3,5,6-tri-fluoropyridine
40 g of 2-(4-benzyloxycarbonylphenoxy)-3,4, 5, 6-tetrafluoropyridine prepared as described in Example 7 (0.106 mol) and 22.4 g of 4-nitrotetrafluorophenol prepared as described in Example 4 (0.106 mol) are dissolved in 400 ml of dimethyl sulfoxide. 30 g of potassium carbonate (0.22 mol) are added in portions to the solution. The mixture is then stirred at room temperature for 24 hours and then heated at 60° C. for 24 hours, and 15 g of potassium hydrogen carbonate (0.15 mol) are then added. The reaction solution is then cooled to room temperature and filtered through a fluted filter. The crude product is washed by shaking with 300 ml of ethyl acetate and 700 ml of water, and the organic phase is washed three times with water and evaporated in a rotary evaporator until the reaction product precipitates out. The reaction product is then recrystallized from a mixture of ethyl acetate and n-hexane (volume ratio 1:1) and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet (Yield: 92%).

reactant | 2-(4-benzyloxycarbonylphenoxy)-3,4, 5, 6-tetrafluoropyridine | 40 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(OC2=NC(=C(C(=C2F)F)F)F)C=C1 | C19H11F4NO3
reactant | 4-nitrotetrafluorophenol | 22.4 g | [N+](=O)([O-])C1=C(C(=C(C(=C1F)F)O)F)F | C6HF4NO3
reactant | potassium carbonate | 0.22 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydrogen carbonate | 0.15 mol, 15 g | C(O)([O-])=O.[K+]
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
product | 4-(4-nitro-3-hydroxy-2,5,6-trifluoro-phenoxy)-2-(4-benzyloxycarbonylphenoxy)-3,5,6-tri-fluoropyridine | Yield: 92% | [N+](=O)([O-])C1=C(C(=C(OC2=C(C(=NC(=C2F)F)OC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)F)C(=C1F)F)F)O | C25H12F6N2O7
